US04703054
A suspension of 3-(2-chloroacetyl)-2,2-dimethyl-5-oxo-1-imidazolidineacetamide (0.48 g) in 33% ammonia solution (6 ml) was stirred at room temperature for 90 minutes. The clear solution obtained was diluted with dry ethanol (80 ml) and evaporated under reduced pressure. The residue was crystallized from water/acetone to afford 3-(2-aminoacetyl)-2,2-dimethyl-5-oxo-1-imidazolidine acetamide hydrochloride as a white powder, m.p. 292° C. decomp.

reactant | 3-(2-chloroacetyl)-2,2-dimethyl-5-oxo-1-imidazolidineacetamide | 0.48 g | ClCC(=O)N1C(N(C(C1)=O)CC(=O)N)(C)C | C9H14ClN3O3
reactant | ammonia | 6 ml | N | H3N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-(2-aminoacetyl)-2,2-dimethyl-5-oxo-1-imidazolidine acetamide hydrochloride | Cl.NCC(=O)N1C(N(C(C1)=O)CC(=O)N)(C)C | InChI=1S/C9H16N4O3.ClH/c1-9(2)12(4-6(11)14)8(16)5-13(9)7(15)3-10;/h3-5,10H2,1-2H3,(H2,11,14);1H
